US07067517B2
Methyl-phenyl-carbamic acid 4-(1-methyl-1H-imidazol-2-ylsulfanylmethyl)-phenyl ester
The title compound was prepared as its TFA salt in 22% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 2-mercapto-1-methylimidazole. 1H NMR (400 MHz; CDCl3): δ 3.34 (s, 3H), 3.40 (br s, 3H), 4.30 (s, 2H), 6.98 (br s, 2H), 7.08–7.11 (m, 3H), 7.27–7.42 (m, 5H), 7.48 (d, 1H); HPLC-MS: m/z=354.1 (M+1); Rt=2.12 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 2-mercapto-1-methylimidazole | SC=1N(C=CN1)C | C4H6N2S
product | Methyl-phenyl-carbamic acid 4-(1-methyl-1H-imidazol-2-ylsulfanylmethyl)-phenyl ester | 22% yield | CC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)SC=1NC=CN1 | C19H19N3O2S
